US08097628B2
To a solution of methyl 3-chloro-5-({[(1,1 dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-pyridinecarboxylate (488 mg, 1.545 mmol) in THF (5 ml) at −23° C. was added methylmagnesium bromide (4.12 ml, 12.36 mmol) dropwise. After addition, the solution was allowed to warm to rt and stirred for 5 h. Saturated NH4Cl was added after cooling the solution to 0° C. Water and EtOAc were added and the aqueous phase was extracted with EtOAc. The solution was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude material was purified by Flashmaster chromatography on a 10 g silica gel cartridge using hexane/EtOAc 95:5 as eluent to obtain 2-[3-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-pyridinyl]-2-propanol (328 mg, 60% yield) as colourless oil.

reactant | methyl 3-chloro-5-({[(1,1 dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-pyridinecarboxylate | 1.545 mmol, 488 mg | ClC=1C(=NC=C(C1)CO[Si](C)(C)C(C)(C)C)C(=O)OC | C14H22ClNO3Si
reactant | methylmagnesium bromide | 12.36 mmol, 4.12 ml | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-[3-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-pyridinyl]-2-propanol | 328 mg, 60% yield | ClC=1C(=NC=C(C1)CO[Si](C)(C)C(C)(C)C)C(C)(C)O | C15H26ClNO2Si
